US08420863B2
Preparation of (E)-3-(3-(2-(1-methoxynaphthalen-2-yl)vinyl)phenyl)propan-1-amine
(E)-2-(3-(3-(2-(1-methoxynaphthalen-2-yl)vinyl)phenyl)propyl)isoindoline-1,3-dione was deprotected following the method used in Example 76 except that the reaction was conducted in MeOH at room temperature for 2 h. The reaction was concentrated under reduced pressure. The white solid was washed with diethyl ether and the decanted solution was concentrated under reduced pressure. The residue was purified by preperative thin layer chromatography on silica gel (1:10:89 NH4OH:MeOH:CH2Cl2) to give Example 92. Yield (0.020 g, 57%): 1H NMR (400 MHz, DMSO-d6) δ 8.07 (d, J=8.4 Hz, 1H), 7.91 (d, J=8.8 Hz, 2H), 7.71 (d, J=8.8 Hz, 1H), 7.46-7.57 (m, 5H), 7.38 (d, J=16.4 Hz, 1H), 7.31 (t, J=7.6 Hz, 1H), 7.13 (d, J=7.6 Hz, 1H), 3.91 (s, 3H), 2.62-2.66 (m, 2H), 2.57 (t, J=6.8 Hz, 2H), 1.64-1.72 (m, 2H).

reactant | (E)-2-(3-(3-(2-(1-methoxynaphthalen-2-yl)vinyl)phenyl)propyl)isoindoline-1,3-dione | COC1=C(C=CC2=CC=CC=C12)/C=C/C=1C=C(C=CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C30H25NO3
solvent | MeOH | CO | CH4O
product | (E)-3-(3-(2-(1-methoxynaphthalen-2-yl)vinyl)phenyl)propan-1-amine | COC1=C(C=CC2=CC=CC=C12)/C=C/C=1C=C(C=CC1)CCCN | C22H23NO
